### PR TITLE
Link between subrelations and path/sorted

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

Missing theorems linking `subrel` and `path` and `sorted`.
This allows to shorten some monotonicity proofs.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- ~~added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/path.v [hunk 1]
```diff
@@ -191,6 +191,12 @@ Implicit Type p : seq T.
 Variant split x : seq T -> seq T -> seq T -> Type :=
   Split p1 p2 : split x (rcons p1 x ++ p2) p1 p2.
 
+Lemma eq_path_in e' x s : {in x :: s &, e =2 e'} -> path e x s = path e' x s.
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v]: `eq_path_in` can be proved as a corollary of `sub_path_in`.

File: mathcomp/ssreflect/path.v [hunk 2]
```diff
@@ -535,6 +540,12 @@ Qed.
 
 Hypothesis leT_tr : transitive leT.
 
+Lemma path_sortedE x s : path leT x s = (all (leT x) s && sorted s).
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v]: Parentheses on the RHS can be removed.

File: mathcomp/ssreflect/path.v [hunk 3]
```diff
@@ -167,16 +167,16 @@ Section HomoPath.
 
 Variables (T T' : Type) (f : T -> T') (leT : rel T) (leT' : rel T').
 
+Lemma path_map x s : path leT' (f x) (map f s) = path (relpre f leT') x s.
+Proof. by elim: s x => //= y s IHs x; rewrite -IHs. Qed.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v]: thanks, done.

File: mathcomp/ssreflect/path.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v]: thanks, done.

File: mathcomp/ssreflect/path.v (hunk 2 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v]: thanks, done.
